US04009187
B. 8-(5-formyl-2-furyl)-octanoic acid methyl ester
6.13 g of phosphorous oxychloride were added, while stirring, to 2.93 g of dimethyl formamide at 5°-10° C for 5 minutes. The mixture was kept at 0°-5° C for 40 minutes and then heated to room temperature. Immediately, and with vigorous stirring, 8.96 g of 8-(2-furyl)-octanoic acid methyl ester were added, whereupon the mixture was cooled to 5°-10° C in an ice-salt bath during 1 hour. After further 1 hour at room temperature, 40 g of ice were added, whereupon the mixture was neutralized with 10 g of sodium carbonate. The two phases were then separated, and the aqueous phase was extracted with ether. The combined organic phases were dried and then distilled. Boiling point 144° C at 0.2 mm Hg.

reactant | phosphorous oxychloride | 6.13 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 8-(2-furyl)-octanoic acid methyl ester | 8.96 g | COC(CCCCCCCC=1OC=CC1)=O | C13H20O3
reactant | sodium carbonate | 10 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethyl formamide | 2.93 g | CN(C=O)C | C3H7NO
product | 8-(5-formyl-2-furyl)-octanoic acid methyl ester | COC(CCCCCCCC=1OC(=CC1)C=O)=O | C14H20O4
